US07138408B2
Step (b): Ethyl 6-amino-9-(3-chlorobenzyl)-9H-β-carboline-3-carboxylate
A solution of ethyl 9-(3-chlorobenzyl)-6-nitro-9H-β-carboline-3-carboxylate (2.7 g, 6.59 mmol) and titanium(III) chloride (36 mL, 20% solution, 46.75 mmol) in a mixture of acetic acid (54 mL), THF (180 mL), water (54 mL) and DMF (10 mL) was stirred for 5 hours at ambient temperature. The reaction mixture was quenched with water (200 mL), and extracted with ethyl acetate (100 mL). The pH of the water layer was adjusted to 7 with saturated Na2CO3 aqueous solution. Then, the resulting precipitate was filtered and dried in vacuo. The product was extracted from the precipitate with CHCl3 in a Soxhlet extractor and purified by chromatography with ethyl acetate to provide the title compound (0.70 g, yield 27.8%). 1H NMR (DMSO-d6): δ 9.06 (s, 1H), 8.70 (s, 1H), 7.50 (d, 1H, J=8.0 Hz), 7.45 (s, 1H), 7.27–7.31 (m, 3H), 7.09 (s, 1H), 7.01 (d, 1H, J=8.0 Hz), 5.75 (s, 2H), 5.05 (s, 2H), 4.36 (q, 2H, J=7.0 Hz), 1.35 (t, 3H, J=7.0 Hz). LCMS (APCI, M+H+): 380.1/382.1=3/1.

reactant | ethyl 9-(3-chlorobenzyl)-6-nitro-9H-β-carboline-3-carboxylate | 6.59 mmol, 2.7 g | ClC=1C=C(CN2C3=CC=C(C=C3C=3C=C(N=CC23)C(=O)OCC)[N+](=O)[O-])C=CC1 | C21H16ClN3O4
reactant | THF | 180 mL | C1CCOC1 | C4H8O
reactant | water | 54 mL | O | H2O
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | acetic acid | 54 mL | C(C)(=O)O | C2H4O2
catalyst | titanium(III) chloride | 46.75 mmol, 36 mL | [Cl-].[Ti+3].[Cl-].[Cl-]
product | Ethyl 6-amino-9-(3-chlorobenzyl)-9H-β-carboline-3-carboxylate | 0.70 g, yield 27.8% | NC=1C=C2C=3C=C(N=CC3N(C2=CC1)CC1=CC(=CC=C1)Cl)C(=O)OCC | C21H18ClN3O2
